US08334236B2
(4) Production of ethyl 2-oxo-1-phenyl-1,2-dihydro-1,8-naphthyridine-3-carboxylate
6.28 g (31.7 mmol) of 2-(phenylamino)nicotinaldehyde was dissolved in ethanol (150 mL), and 7.62 g (47.6 mmol) of diethyl malonate and 1.35 g (15.9 mmol) of piperidine were added thereto. The resulting mixture was stirred overnight at 100° C. The reaction mixture was cooled, and a solid precipitated thereby was separated by filtration. The solid was washed sequentially with ethanol and diisopropyl ether. Thus, 7.42 g of the title compound was obtained as a pale yellow solid (yield: 800).

reactant | 2-(phenylamino)nicotinaldehyde | 31.7 mmol, 6.28 g | C1(=CC=CC=C1)NC1=C(C=O)C=CC=N1 | C12H10N2O
reactant | diethyl malonate | 47.6 mmol, 7.62 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | piperidine | 15.9 mmol, 1.35 g | N1CCCCC1 | C5H11N
solvent | ethanol | 150 mL | C(C)O | C2H6O
product | ethyl 2-oxo-1-phenyl-1,2-dihydro-1,8-naphthyridine-3-carboxylate | 7.42 g | O=C1N(C2=NC=CC=C2C=C1C(=O)OCC)C1=CC=CC=C1 | C17H14N2O3
